US04996218
6-(5-Pyrimidinyl)-5-hexynol
A mixture of 5-bromopyrimidine (3.96 g), 5-hexynol (2.44 g), dicyclohexylamine (4 g) and acetonitrile (50 ml) was de-oxygenated by bubbline nitrogen through the solution for 10 min. BTPC (150 mg) and copper (I) iodide (25 mg) were added and the mixture was heated to 60°-70° under nitrogen for 1 h, cooled and evaporated in vacuo. Ether (175 ml) was added, the mixture filtered and evaporated in vacuo and the residue purified by FCC. Elution with ether followed by System C (19:1-92:8) gave the title compound as a pale yellow oil (3.79 g), t.l.c. (System C 17:3) Rf 0.55.

reactant | 5-bromopyrimidine | 3.96 g | BrC=1C=NC=NC1 | C4H3BrN2
reactant | 5-hexynol | 2.44 g | C(CCCC#C)O | C6H10O
reactant | dicyclohexylamine | 4 g | C1(CCCCC1)NC1CCCCC1 | C12H23N
catalyst | copper (I) iodide | 25 mg | [Cu]I
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 6-(5-Pyrimidinyl)-5-hexynol | 3.79 g | N1=CN=CC(=C1)C#CCCCCO | C10H12N2O
